US08217069B2
5-Fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol
To a solution of 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)anisole (0.57 g) in methylene chloride (12 mL) was added boron tribromide (1 mol/L methylene chloride solution, 3.53 mL) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=1/1) to give the title compound (0.46 g).

reactant | 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)anisole | 0.57 g | FC=1C(=CC(=C(C1)OC)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C25H21FN2O5S
reactant | boron tribromide | 1 mol/L, 3.53 mL | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol | 0.46 g | FC=1C(=CC(=C(C1)O)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C24H19FN2O5S
